US08426411B2
To a solution of NaOH (0.088 g, 2.20 mmol) in MeOH (8 mL) was added a solution of 3-ethyl-4-(6-((2-(trimethylsilyl)ethoxy)methyl)-6H-pyrrolo[2,3-e][1,2,4]triazolo[4,3-a]pyrazin-1-yl)cyclopentyl benzoate (0.158 g, 0.312 mmol, prepared using KK from Preparation #20.2) in MeOH (2 mL). The reaction mixture was stirred at ambient temperature for about 3 h. The solvent was removed under reduced pressure and DCM (150 mL) was added. The organic layer was washed with water (5 mL), saturated aqueous NaHCO3 (15 mL), brine (15 mL), and dried over anhydrous MgSO4, filtered, and concd under reduced pressure to give 3-ethyl-4-(6-((2-(trimethylsilyl)ethoxy)methyl)-6H-pyrrolo[2,3-e][1,2,4]triazolo[4,3-a]pyrazin-1-yl)cyclopentanol (0.123 g, 98%) as clear oil: LC/MS (Table 1, Method b) Rt=2.34 min; MS m/z: 402 (M+H)+.

reactant | NaOH | 2.20 mmol, 0.088 g | [OH-].[Na+]
reactant | 3-ethyl-4-(6-((2-(trimethylsilyl)ethoxy)methyl)-6H-pyrrolo[2,3-e][1,2,4]triazolo[4,3-a]pyrazin-1-yl)cyclopentyl benzoate | 0.312 mmol, 0.158 g | C(C1=CC=CC=C1)(=O)OC1CC(C(C1)C1=NN=C2N1C1=C(N=C2)N(C=C1)COCC[Si](C)(C)C)CC | C27H35N5O3Si
solvent | MeOH | 8 mL | CO | CH4O
solvent | MeOH | 2 mL | CO | CH4O
product | 3-ethyl-4-(6-((2-(trimethylsilyl)ethoxy)methyl)-6H-pyrrolo[2,3-e][1,2,4]triazolo[4,3-a]pyrazin-1-yl)cyclopentanol | 0.123 g, 98% | C(C)C1CC(CC1C1=NN=C2N1C1=C(N=C2)N(C=C1)COCC[Si](C)(C)C)O | C20H31N5O2Si
